US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dichloro-phenyl)-pyrrolidine
Combine 1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dichloro-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine (0.48 g, 1.41 mmol), diisopropylethylamine (0.24 g, 1.9 mmol), 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidine (0.50 g, 0.94 mmol), and acetonitrile (15 mL). Heat to reflux. After 18 hours, cool and partition the reaction mixture between ethyl acetate and water. Extract the organic layer with a saturated sodium bicarbonate solution and a saturated sodium chloride solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 12% methanol/ethyl acetate containing 0.1% concentrated aqueous ammonia solution to give the title compound: Rf=0.35 (silica gel, 12% methanol/ethyl acetate containing 0.1% concentrated aqueous ammonia solution).

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dichloro-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine | 1.41 mmol, 0.48 g | COC=1C=C(C(=O)N2CC(CC2)(CCS(=O)(=O)C)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C23H27Cl2NO6S
reactant | diisopropylethylamine | 1.9 mmol, 0.24 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidine | 0.94 mmol, 0.50 g | FC1=CC=C(CN2C(=NC3=C2C=CC=C3)C(=O)C3CCNCC3)C=C1 | C20H20FN3O
reactant | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dichloro-phenyl)-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)Cl)Cl)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=C(C1OC)OC | C42H43Cl2FN4O5
